US07402672B2
3-Phenylsulfanyl-1-propyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide, Ia-37 (Scheme I, step g)
Add 1-bromopropane (19 mg, 0.154 mmol) at r.t. to a mixture of 3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide (Ia-1, 31.5 mg, 0.12 mmol), Cs2CO3 (60 mg, 0.185 mmol) in pyridine (0.5 ml). Heat the reaction at 80° C. in a sealed vessel for 1 hr. Cool the mixture and extract into ethyl acetate from water. Separate the organic phase and evaporate. Purify the residue (33 mg) by flash chromatography (SiO2, 2 gm, elute with heptane:DCM then MeOH 0-4% in DCM) to provide title compound (11.5 mg) as a white solid, 1H NMR (CDCl3) and LC-MS (m/e=311) are consistent for the title compound structure.

reactant | 1-bromopropane | 0.154 mmol, 19 mg | BrCCC | C3H7Br
reactant | 3-phenylsulfanyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | 0.12 mmol, 31.5 mg | C1(=CC=CC=C1)SC1=C(NC=2C1=NC=CC2)C(=O)N | C14H11N3OS
reactant | Cs2CO3 | 0.185 mmol, 60 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 3-Phenylsulfanyl-1-propyl-1H-pyrrolo[3,2-b]pyridine-2-carboxylic acid amide | 11.5 mg | C1(=CC=CC=C1)SC1=C(N(C=2C1=NC=CC2)CCC)C(=O)N | C17H17N3OS
